US06399641B1
N-(2-tert-Butyl-2H-tetrazol-5-yl)-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 191-192° and MS: (neg. ions): m/e=334.3 (M+−H) was prepared in accordance with the general method of example 1 from 5-amino-2-tert-butyl-2H-tetrazole and diphenylacetyl chloride.

reactant | 5-amino-2-tert-butyl-2H-tetrazole | NC=1N=NN(N1)C(C)(C)C | C5H11N5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | N-(2-tert-Butyl-2H-tetrazol-5-yl)-2,2-diphenyl-acetamide | C(C)(C)(C)N1N=C(N=N1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H21N5O
